2157-04-03 06:27:00 Physician Resident Progress Note
Chief Complaint: AMS
   24 Hour Events:
   [**4-2**] Events:
   - MS waxing and [**Doctor Last Name 226**]
   - low grade fevers, blood cx and urine cx sent
   - RUQ US negative, LENIs neg
   - neuro consult recommended LP and EEG
   - LP not c/w meningitis (received platelets peri LP)
   - EEG ordered, to be done this morning
   - CTA showed now PE, RLL PNA, ? pyelonephritis
   - Hct low of 19, type and cross sent
 PICC LINE - START [**2157-4-2**] 05:30 PM
 EKG - At [**2157-4-2**] 06:00 PM
 ULTRASOUND - At [**2157-4-2**] 07:28 PM
   Leni's & Ab US done
 LUMBAR PUNCTURE - At [**2157-4-3**] 01:00 AM
 BLOOD CULTURED - At [**2157-4-3**] 06:15 AM
   from PICC
 URINE CULTURE - At [**2157-4-3**] 06:20 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2157-4-2**] 10:00 PM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Diltiazem - [**2157-4-2**] 05:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-4-3**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.7
C (98
   HR: 106 (81 - 124) bpm
   BP: 120/61(75) {120/56(73) - 174/99(111)} mmHg
   RR: 24 (22 - 34) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
           Total In:
                                                                    575 mL
                                                                  1,503 mL
   PO:
           TF:
   IVF:
                                                                    575 mL
                                                                  1,227 mL
   Blood products:
   276 mL
   Total out:
                                                                    580 mL
                                                                    370 mL
   Urine:
                                                                    580 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -5 mL
                                                                  1,133 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin,
   nonresponsive except to painful stimuli
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, black L eye
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : , Bronchial: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: RUQ
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Oriented (to): nothing,
   Movement: Non -purposeful, Tone: Not assessed
   Labs / Radiology
   105 K/uL
   6.6 g/dL
   246 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.1 mEq/L
   23 mg/dL
   103 mEq/L
   133 mEq/L
   19.1 %
   7.4 K/uL
        [image002.jpg]
                             [**2157-3-29**]  05:00 AM
                             [**2157-3-29**]  08:32 AM
                             [**2157-4-2**]  04:03 PM
                             [**2157-4-2**]  11:04 PM
                             [**2157-4-3**]  03:03 AM
   WBC
   8.4
   8.1
   7.4
   Hct
   22.2
   22.3
   19.1
   Plt
   76
   110
   96
   78
   105
   Cr
   1.3
   1.2
   1.1
   TropT
   0.04
   Glucose
   143
   102
   246
   Other labs: PT / PTT / INR:17.0/39.2/1.5, CK / CKMB /
   Troponin-T:19//0.04, ALT / AST:48/61, Alk Phos / T Bili:70/0.9, Amylase
   / Lipase:75/66, Differential-Neuts:51.0 %, Band:4.0 %, Lymph:11.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, LDH:454 IU/L, Ca++:8.3
   mg/dL, Mg++:1.5 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   82 y/o F w/ multiple myeloma, frequent recent falls in setting of
   severe peripheral neuropathy who now p/w acute on chronic subdural
   hematoma and pneumonia after an unwitnessed fall.  Transferred back to
   MICU after becoming non responsive, febrile and in afib with [**Year (4 digits) 1978**].
   .
   # AMS - unclear etiology, CT of head negative for change in SDH and
   patient moving all 4 extremities.  Would continue to monitor CTs for
   changes as needed.  Neuro consult, checking dilantin levels and EEG.
   Could be secondary to infection as patient is febrile.  Has known
   pneumonia.  [**Month (only) 8**] be c.diff in the setting of broad spectrum abx.  Maybe
   meningitis, although LP initially negative.  Could be drug effect,
   although not on any sedating meds now except oxybutinin.  Is
   hemodynamically stable and should have adequate perfusion to brain.
   Recent MRI showed nonobstruction flow.
   - f/u pan cultures of blood, urine, stool
   - f/u LP cultures
   - EEG today to rule out subclinical seizures
   - MRI to rule out stroke
   - LENIs and CTA neg for clots
   - hold oxybutinin
   - follow up neuro recs
   - could be delirium in setting of pain
   .
   # Fever - fever today, culturing, is immunecompromised secondary to
   pulse steroids for MM.  Being treated for HAP and aspiration pneumonia
   with broad spectrum vanco, cefepime, flagyl.  Not covering ESBLs.  Also
   not covering fungal infections.
   - f/u cultures
   - continue current abx
 see if infection declares itself
   - consider DVT as source of fever, f/u LENIs
   - hemodynamically stable, does not appear septic
   .
   # RUQ pain - unclear etiology, patient is post cholecystectomy so not
   gallbladder pain.  Could be rib fracture v. pleural pain v. colitis vs.
   pneumonia pain.
   - f/u abdominal ultrasound
 negative
   - CT abd and pelvis did not show pathology which could account for
   pain; consider possible obstructing stone as cause as it would not be
   well visualized on CT
   - no abx for now
   .
   # Subdural Hematoma: Neurosurgery following, no acute change from OSH
   imaging, no changes in CT today.
   - transfuse plt's with goal of >80, plt 96 now
   - INR 1.5, s/p Vit K treatment
   - continue dilantin at an appropriately corrected level; holding lyrica
   is in setting of no POs
   .
   # Afib with [**Name (NI) 1978**] - unclear precipitating factor, likley in setting of
   fever and new infection.  BPs stable, HRs to 140s.  Not changed with
   metoprolol; IV dilt pushes work.
   - start dilt gtt, transition to PO if GI access achieved
   - echo done earlier in admission, no need to repeat at this time
   - no PE based on CTA
   - EKG without signs of ischemia
   .
   # Respiratory/PNA: Has known PNA on CXR, treated from the start.  Abx
   treatment included vanco and cefepime started [**3-29**].  Did get one dose
   of ceftriaxone.  Was started on levo for atypical coverage on [**3-29**]
   which was stopped [**4-2**].  Flagyl was started [**4-2**] (today).  Culture data
   only positive for GPCs in sputum, no speciation done.  Is tachypneic
   but oxygentating well.
   - cont vancomycin, cefepime for 7 days (until [**4-5**])
   - oxygen to maintain sats >92%
   - CXR and CTA without changes, still with RLL PNA
   .
   # Falls/?Syncope: recent admit with extensive work-up attributing LE
   weakness and falls to cervical spondylosis and multilevel degenerative
   disease with myelopathy and neuropathy. Unclear if LOC with fall.
   - tele
   - MRA of neck done on last admit showing no flow limiting lesions
   - dilantin as above for seizure ppx
   - monitor resp status
   .
   # Myeloma: On pulse decadron as per heme-onc for tx of myeloma.
   - Next pulse due in 1 week.
   - will touch base with heme onc about next steroid dose
   .
   # Pancytopenia: [**3-7**] to myeloma.
   - Transfuse platelets with goal > 80K
   - Transfuse hct < 21
   .
   # Renal Failure: At baseline from last admission. Unclear etiology to
   CKD, but may represent complication from myeloma.
   - Trend Cr
   - Cr 1.2 up from 1.1 yesterday (high was 1.3 this admission)
   .
   # FEN: NPO for AMS, replete lytes PRN
   .
   # Prophylaxis: pneumoboots (no SQ hep d/t SDH), PPI, pneumovax given at
   OSH
   .
   # Access: PICC line
   .
   # Code: Ok to intubate, patient declines resuscitation but son who is
   HCP says yes to intubation.
   .
   # Communication: Patient, son is HCP, family meeting today
   .
   # Disposition: pending resp status improvement, PT c/s
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2157-4-2**] 05:30 PM
   20 Gauge - [**2157-4-2**] 05:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2157-04-03 09:30:00 Physician Attending Progress Note
Chief Complaint: AF RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo women admitted to MICU on 24th with SDH after a fall.  Also dx'ed
   with PNA and CXR with infiltrate and floor on [**9-27**].  Yesterday on floor
   with poor MS, RUQ pain, fever, AFib RVR and came back to MICU.  Started
   on dilt drip and HR came to 100s from 140s, (did not response to
   lopressor).  RUQ U/S was negative.  LENIs were negative for DVT.  LP
   last night was negative for meningitis.  CTA with no PE, but RLL PNA
   and ?pyelonephritis.
   24 Hour Events:
 PICC LINE - START [**2157-4-2**] 05:30 PM
 EKG - At [**2157-4-2**] 06:00 PM
 ULTRASOUND - At [**2157-4-2**] 07:28 PM
   Leni's & Ab US done
 LUMBAR PUNCTURE - At [**2157-4-3**] 01:00 AM
 BLOOD CULTURED - At [**2157-4-3**] 06:15 AM
   from PICC
 URINE CULTURE - At [**2157-4-3**] 06:20 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2157-4-2**] 10:00 PM
   Vancomycin - [**2157-4-3**] 07:30 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Diltiazem - [**2157-4-2**] 05:20 PM
   Other medications:
   ditropan
   lyrica
   dilantin
   cefipime
   acetylcysteine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-4-3**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.2
C (99
   HR: 103 (81 - 124) bpm
   BP: 129/63(82) {108/56(72) - 174/99(111)} mmHg
   RR: 26 (22 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
           Total In:
                                                                    575 mL
                                                                  2,015 mL
   PO:
           TF:
   IVF:
                                                                    575 mL
                                                                  1,636 mL
   Blood products:
   379 mL
   Total out:
                                                                    580 mL
                                                                    450 mL
   Urine:
                                                                    580 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -5 mL
                                                                  1,565 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.5/30/75/25/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: RUQ
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, Tone: Not assessed, does not
   verbalize, but follows some commands
   Labs / Radiology
   6.6 g/dL
   105 K/uL
   246 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.1 mEq/L
   23 mg/dL
   103 mEq/L
   133 mEq/L
   19.1 %
   7.4 K/uL
        [image002.jpg]
                             [**2157-3-29**]  05:00 AM
                             [**2157-3-29**]  08:32 AM
                             [**2157-4-2**]  04:03 PM
                             [**2157-4-2**]  11:04 PM
                             [**2157-4-3**]  03:03 AM
   WBC
   8.4
   8.1
   7.4
   Hct
   22.2
   22.3
   19.1
   Plt
   76
   110
   96
   78
   105
   Cr
   1.3
   1.2
   1.1
   TropT
   0.04
   Glucose
   143
   102
   246
   Other labs: PT / PTT / INR:17.0/39.2/1.5, CK / CKMB /
   Troponin-T:19//0.04, ALT / AST:48/61, Alk Phos / T Bili:70/0.9, Amylase
   / Lipase:75/66, Differential-Neuts:51.0 %, Band:4.0 %, Lymph:11.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, LDH:454 IU/L, Ca++:8.3
   mg/dL, Mg++:1.5 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: U/A unremarkable, but with blood
   dilantin level: 10.4 (corrected)
   Imaging: abd ct: with not renal stones or obstruction
   Assessment and Plan
   Poor MS:  Unclear cause, no evidence of meningitis.  consider delirium
   versus subclinical seizures.  Will get EEG.  f/u LP results.
   Fever:  unclear source, could be from hematoma although this is
   diagnosis of exclusion on therapy for PNA with vanco/cefepime.
   RUQ pain:  Exam seems benign currently, no clear pathology on US or CT.
    U/A was negative making pyelonephritis unlikely.
   AFib:  Underlying pulm HTN and likely diastolic dysfunction.  Unclear
   precipitant.  Tolerating dilt drip, unable to take po currently. Will
   try to get dobhoff placed.
   ICU Care
   Nutrition:
   Comments: will place dobhoff for TFs.
   Glycemic Control:
   Lines:
   PICC Line - [**2157-4-2**] 05:30 PM
   20 Gauge - [**2157-4-3**] 08:00 AM
   22 Gauge - [**2157-4-3**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2157-04-04 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - prelim EEG: diffuse encephalopathy
   - prelim MRI: stable hematoma, chronic microvascular infarct but no
   acute changes
   - transitioned dilt gtt to dilt PO
   - family OK with feeding tube -> tried Dobhoff multiple times, pt
   unable to cooperate with procedure -> ordered for IR placement [**4-4**]
   - HSV PCR from LP pending, otherwise unremarkable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-4-3**] 07:30 AM
   Cefipime - [**2157-4-3**] 10:00 PM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2157-4-3**] 01:15 PM
   Lorazepam (Ativan) - [**2157-4-3**] 09:45 PM
   Dilantin - [**2157-4-4**] 12:00 AM
   Metoprolol - [**2157-4-4**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-4-4**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.6
C (99.7
   HR: 94 (91 - 121) bpm
   BP: 116/66(75) {103/60(71) - 158/82(100)} mmHg
   RR: 34 (22 - 43) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
           Total In:
                                                                  3,734 mL
                                                                    171 mL
   PO:
           TF:
   IVF:
                                                                  3,083 mL
                                                                    148 mL
   Blood products:
                                                                    651 mL
                                                                     23 mL
   Total out:
                                                                  1,780 mL
                                                                    190 mL
   Urine:
                                                                  1,780 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,954 mL
                                                                    -19 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin,
   nonresponsive except to painful stimuli
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, black L eye
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : , Bronchial: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: RUQ
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Oriented (to): nothing,
   Movement: Non -purposeful, Tone: Not assessed
   Labs / Radiology
   76 K/uL
   7.7 g/dL
   111 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.9 mEq/L
   22 mg/dL
   104 mEq/L
   134 mEq/L
   21.7 %
   9.6 K/uL
        [image002.jpg]
                             [**2157-3-29**]  05:00 AM
                             [**2157-3-29**]  08:32 AM
                             [**2157-4-2**]  04:03 PM
                             [**2157-4-2**]  11:04 PM
                             [**2157-4-3**]  03:03 AM
                             [**2157-4-3**]  01:22 PM
                             [**2157-4-4**]  03:45 AM
   WBC
   8.4
   8.1
   7.4
   10.7
   9.6
   Hct
   22.2
   22.3
   19.1
   24.6
   21.7
   Plt
   76
   110
   96
   78
   105
   117
   76
   Cr
   1.3
   1.2
   1.1
   1.1
   1.1
   TropT
   0.04
   Glucose
   143
   102
   246
   181
   111
   Other labs: PT / PTT / INR:15.7/36.4/1.4, CK / CKMB /
   Troponin-T:17//0.04, ALT / AST:51/71, Alk Phos / T Bili:65/0.9, Amylase
   / Lipase:75/66, Differential-Neuts:51.0 %, Band:4.0 %, Lymph:11.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, LDH:454 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   82 y/o F w/ multiple myeloma, frequent recent falls in setting of
   severe peripheral neuropathy who now p/w acute on chronic subdural
   hematoma and pneumonia after an unwitnessed fall.  Transferred back to
   MICU after becoming non responsive, febrile and in afib with [**Year (4 digits) 1978**].
   .
   # AMS - unclear etiology, CT of head negative for change in SDH and
   patient moving all 4 extremities.  Would continue to monitor CTs for
   changes as needed.  Neuro consult, checking dilantin levels and EEG.
   Could be secondary to infection as patient is febrile.  Has known
   pneumonia.  [**Month (only) 8**] be c.diff in the setting of broad spectrum abx.  Maybe
   meningitis, although LP initially negative.  Could be drug effect,
   although not on any sedating meds now except oxybutinin.  Is
   hemodynamically stable and should have adequate perfusion to brain.
   Recent MRI showed nonobstruction flow.
   - f/u pan cultures of blood, urine, stool
   - f/u LP cultures
   - EEG today to rule out subclinical seizures
   - MRI to rule out stroke
   - LENIs and CTA neg for clots
   - hold oxybutinin
   - follow up neuro recs
   - could be delirium in setting of pain
   .
   # Fever - fever today, culturing, is immunecompromised secondary to
   pulse steroids for MM.  Being treated for HAP and aspiration pneumonia
   with broad spectrum vanco, cefepime, flagyl.  Not covering ESBLs.  Also
   not covering fungal infections.
   - f/u cultures
   - continue current abx
 see if infection declares itself
   - consider DVT as source of fever, f/u LENIs
   - hemodynamically stable, does not appear septic
   .
   # RUQ pain - unclear etiology, patient is post cholecystectomy so not
   gallbladder pain.  Could be rib fracture v. pleural pain v. colitis vs.
   pneumonia pain.
   - f/u abdominal ultrasound
 negative
   - CT abd and pelvis did not show pathology which could account for
   pain; consider possible obstructing stone as cause as it would not be
   well visualized on CT
   - no abx for now
   .
   # Subdural Hematoma: Neurosurgery following, no acute change from OSH
   imaging, no changes in CT today.
   - transfuse plt's with goal of >80, plt 96 now
   - INR 1.5, s/p Vit K treatment
   - continue dilantin at an appropriately corrected level; holding lyrica
   is in setting of no POs
   .
   # Afib with [**Name (NI) 1978**] - unclear precipitating factor, likley in setting of
   fever and new infection.  BPs stable, HRs to 140s.  Not changed with
   metoprolol; IV dilt pushes work.
   - start dilt gtt, transition to PO if GI access achieved
   - echo done earlier in admission, no need to repeat at this time
   - no PE based on CTA
   - EKG without signs of ischemia
   .
   # Respiratory/PNA: Has known PNA on CXR, treated from the start.  Abx
   treatment included vanco and cefepime started [**3-29**].  Did get one dose
   of ceftriaxone.  Was started on levo for atypical coverage on [**3-29**]
   which was stopped [**4-2**].  Flagyl was started [**4-2**] (today).  Culture data
   only positive for GPCs in sputum, no speciation done.  Is tachypneic
   but oxygentating well.
   - cont vancomycin, cefepime for 7 days (until [**4-5**])
   - oxygen to maintain sats >92%
   - CXR and CTA without changes, still with RLL PNA
   .
   # Falls/?Syncope: recent admit with extensive work-up attributing LE
   weakness and falls to cervical spondylosis and multilevel degenerative
   disease with myelopathy and neuropathy. Unclear if LOC with fall.
   - tele
   - MRA of neck done on last admit showing no flow limiting lesions
   - dilantin as above for seizure ppx
   - monitor resp status
   .
   # Myeloma: On pulse decadron as per heme-onc for tx of myeloma.
   - Next pulse due in 1 week.
   - will touch base with heme onc about next steroid dose
   .
   # Pancytopenia: [**3-7**] to myeloma.
   - Transfuse platelets with goal > 80K
   - Transfuse hct < 21
   .
   # Renal Failure: At baseline from last admission. Unclear etiology to
   CKD, but may represent complication from myeloma.
   - Trend Cr
   - Cr 1.2 up from 1.1 yesterday (high was 1.3 this admission)
   .
   # FEN: NPO for AMS, replete lytes PRN
   .
   # Prophylaxis: pneumoboots (no SQ hep d/t SDH), PPI, pneumovax given at
   OSH
   .
   # Access: PICC line
   .
   # Code: Ok to intubate, patient declines resuscitation but son who is
   HCP says yes to intubation.
   .
   # Communication: Patient, son is HCP, family meeting today
   .
   # Disposition: pending resp status improvement, PT c/s
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2157-4-2**] 05:30 PM
   20 Gauge - [**2157-4-3**] 08:00 AM
   22 Gauge - [**2157-4-3**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2157-04-04 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   See other note --- error -- JPS
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2157-04-05 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - MRI showing small superficial cortical, acute on subacute areas of
   likely embolic stroke in R temporal and R frontal lobes. No hemorrhagic
   conversion
   - PO dilt started at 60 mg QID, increased to 90 mg QID to be weaned off
   Dilt gtt (at 5mg/hr as of 6 am)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-4-4**] 08:22 AM
   Cefipime - [**2157-4-4**] 10:00 PM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-4-4**] 08:22 AM
   Dilantin - [**2157-4-5**] 12:00 AM
   Diltiazem - [**2157-4-5**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-4-5**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 102 (81 - 112) bpm
   BP: 140/81(93) {101/49(60) - 142/94(98)} mmHg
   RR: 27 (22 - 35) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  1,396 mL
                                                                    846 mL
   PO:
             TF:
                                                                     59 mL
                                                                    157 mL
   IVF:
                                                                    847 mL
                                                                    659 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    905 mL
                                                                    255 mL
   Urine:
                                                                    905 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    491 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin,
   responsive to voice, but nonverbal
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, L eye ecchymosis resolving
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : , Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Oriented (to): nothing,
   Movement: Non -purposeful, Tone: Not assessed
   Labs / Radiology
   54 K/uL
   8.4 g/dL
   119 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.3 mEq/L
   22 mg/dL
   107 mEq/L
   137 mEq/L
   24.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2157-3-29**]  05:00 AM
                             [**2157-3-29**]  08:32 AM
                             [**2157-4-2**]  04:03 PM
                             [**2157-4-2**]  11:04 PM
                             [**2157-4-3**]  03:03 AM
                             [**2157-4-3**]  01:22 PM
                             [**2157-4-4**]  03:45 AM
                             [**2157-4-4**]  11:55 AM
                             [**2157-4-5**]  03:26 AM
   WBC
   8.4
   8.1
   7.4
   10.7
   9.6
   10.0
   9.4
   Hct
   22.2
   22.3
   19.1
   24.6
   21.7
   24.3
   24.3
   Plt
   76
   110
   96
   78
   105
   117
   76
   70
   54
   Cr
   1.3
   1.2
   1.1
   1.1
   1.1
   1.2
   TropT
   0.04
   Glucose
   143
   102
   246
   181
   111
   119
   Other labs: PT / PTT / INR:16.1/36.7/1.4, CK / CKMB /
   Troponin-T:17//0.04, ALT / AST:60/94, Alk Phos / T Bili:68/0.9, Amylase
   / Lipase:75/66, Differential-Neuts:51.0 %, Band:4.0 %, Lymph:11.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.0 g/dL,
   LDH:609 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   82 y/o F w/ multiple myeloma, frequent recent falls in setting of
   severe peripheral neuropathy who now p/w acute on chronic subdural
   hematoma and pneumonia after an unwitnessed fall.  Transferred back to
   MICU after becoming non responsive, febrile and in afib with [**Year (4 digits) 1978**].
   .
   # AMS - unclear etiology, CT of head negative for change in SDH and
   patient moving all 4 extremities. 24 hour EEG showing spikes that might
   represent subacute status epilepticus. Could be secondary to infection
   as patient is febrile and has known pneumonia.  MRI shows acute and
   subacute infarcts c/w infarcts, no hemorrhagic conversion, which has
   potential to contribute to the AMS. Recent MRI showed nonobstruction
   flow. [**Month (only) 8**] be c.diff in the setting of broad spectrum abx.  Less likely
   meningitis, LP initially negative.  Could be drug effect, although not
   on any sedating meds now except oxybutinin. Could be delirium in
   setting of pain.  Is hemodynamically stable and should have adequate
   perfusion to brain.  LENIs and CTA neg for clots
   - f/u pan cultures of blood, urine, stool
 so far negative
   - f/u LP cultures
 Neg prelim, neg Crypto
   - EEG
 f/u final read
   - Neuro
 start Ativan on top of Dilantin, may take patient to Neuro
   step-down
   .
   # Fever
 Following fever curve, is immunocompromised secondary to
   pulse steroids for MM.  Being treated for HAP and aspiration pneumonia
   with broad spectrum vanco, cefepime.  Not covering ESBLs.  Also not
   covering fungal infections.
   - f/u cultures
 so far negative
   - continue current abx
 last dose today [**2157-4-5**]
   - remains hemodynamically stable
   .
   # RUQ pain
 stable, unclear etiology, patient is post cholecystectomy
   so not gallbladder pain.  Could be rib fracture v. pleural pain v.
   colitis vs. pneumonia pain.
   - f/u abdominal ultrasound
 negative
   - CT abd and pelvis did not show pathology which could account for
   pain; consider possible obstructing stone as cause as it would not be
   well visualized on CT
   - no abx for now
   .
   # Subdural Hematoma: Neurosurgery following, no acute change from OSH
   imaging, no changes in repeat CT
   - original plan was to transfuse plt's with goal of >80, but pt has no
   evidence of bleeding on recent MRI head, will hold off for now, unless
   NS has different indication
   - INR 1.4, s/p Vit K treatment
   - continue dilantin at an appropriately corrected level; restarted
   lyrica as patient has NGT
   .
   # Afib with [**Name (NI) 1978**] - unclear precipitating factor, likely in setting of
   fever and new infection.  BPs stable, HRs to 140s.  Not changed with
   metoprolol; responsive to diltiazem
   - Titrating dilt po dose per pharmacy recs
   - echo done earlier in admission, no need to repeat at this time
   - no PE based on CTA
   - EKG without signs of ischemia
   .
   # Respiratory/PNA: Abx treatment included vanco and cefepime started
   [**3-29**].  Did get one dose of ceftriaxone.  Was started on levo for
   atypical coverage on [**3-29**] which was stopped [**4-2**].  Flagyl was started
   [**4-2**]. Culture data only positive for GPCs in sputum, no speciation
   done.  Is oxygentating well.
   - cont vancomycin, cefepime for 7 days (until [**4-5**]) , flagyl d/c
   - oxygen to maintain sats >92%
   - CXR stable
   .
   # Diarrhea: patient had an episode of diarrhea on [**2157-4-4**]
   - C. diff pending
   .
   # Falls/?Syncope: recent admit with extensive work-up attributing LE
   weakness and falls to cervical spondylosis and multilevel degenerative
   disease with myelopathy and neuropathy. Unclear if LOC with fall.
   - Cont. tele
   - MRA of neck done on last admit showing no flow limiting lesions
   - dilantin as above for seizure ppx
   - monitor resp status
   .
   # Myeloma: On pulse decadron as per heme-onc for tx of myeloma.
   - Next pulse due in 1 week.
   - will touch base with heme onc about next steroid dose
   .
   # Pancytopenia: [**3-7**] to myeloma.
   - Transfuse platelets with goal > 80K, on hold unless neuorsurg has
   good indication for tranfusion
   - Transfuse hct < 21, rcv
d one unit [**2157-4-4**] in AM
   .
   # Renal Failure: At baseline from last admission. Unclear etiology to
   CKD, but may represent complication from myeloma.
   - Trend Cr
   - Cr stable at 1.1
   .
   # FEN: NGT TF at goal, replete lytes PRN
   .
   # Prophylaxis: pneumoboots (no SQ hep d/t SDH), PPI, pneumovax given at
   OSH
   .
   # Access: PICC line
   .
   # Code: DNR/DNI per discussion with pt
s son on [**2157-4-4**]
   .
   # Communication: Patient, son is HCP
   .
   # Disposition: pending resp status improvement, PT c/s
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2157-4-4**] 06:08 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2157-4-2**] 05:30 PM
   20 Gauge - [**2157-4-3**] 08:00 AM
   22 Gauge - [**2157-4-3**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2157-04-06 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - 24-hr EEG c/w variable duration spikes c/w preseizure activity - not
   status
   - Per Neuro, bolused phenytoin 500mg with level recheck in AM
   - Nsurg: risk of spont rebleed into SDH is high with platelets < 50K,
   this AM is 30, transfusing platelets
   - Clotrimasole started for vulvar erythema
   - Urine lytes sent for low UOP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-4-4**] 08:22 AM
   Cefipime - [**2157-4-5**] 09:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2157-4-5**] 12:45 PM
   Diltiazem - [**2157-4-5**] 04:00 PM
   Dilantin - [**2157-4-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-4-6**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 99 (82 - 106) bpm
   BP: 129/76(86) {100/49(61) - 146/86(96)} mmHg
   RR: 30 (24 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
           Total In:
                                                                  2,043 mL
                                                                  1,669 mL
   PO:
           TF:
                                                                    770 mL
                                                                    285 mL
   IVF:
                                                                    963 mL
                                                                  1,071 mL
   Blood products:
   183 mL
   Total out:
                                                                    790 mL
                                                                    244 mL
   Urine:
                                                                    790 mL
                                                                    244 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,253 mL
                                                                  1,425 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin,
   responsive to voice, but nonverbal
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, L eye ecchymosis resolving
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : , Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Oriented (to): nothing,
   Movement: Non -purposeful, Tone: Not assessed
   Labs / Radiology
   30 K/uL
   8.4 g/dL
   125 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.7 mEq/L
   23 mg/dL
   110 mEq/L
   138 mEq/L
   23.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2157-3-29**]  05:00 AM
                             [**2157-3-29**]  08:32 AM
                             [**2157-4-2**]  04:03 PM
                             [**2157-4-2**]  11:04 PM
                             [**2157-4-3**]  03:03 AM
                             [**2157-4-3**]  01:22 PM
                             [**2157-4-4**]  03:45 AM
                             [**2157-4-4**]  11:55 AM
                             [**2157-4-5**]  03:26 AM
                             [**2157-4-6**]  04:08 AM
   WBC
   8.4
   8.1
   7.4
   10.7
   9.6
   10.0
   9.4
   10.0
   Hct
   22.2
   22.3
   19.1
   24.6
   21.7
   24.3
   24.3
   23.5
   Plt
   76
   110
   96
   78
   105
   117
   76
   70
   54
   30
   Cr
   1.3
   1.2
   1.1
   1.1
   1.1
   1.2
   1.2
   TropT
   0.04
   Glucose
   143
   102
   246
   181
   111
   119
   125
   Other labs: PT / PTT / INR:14.3/32.4/1.2, CK / CKMB /
   Troponin-T:17//0.04, ALT / AST:57/73, Alk Phos / T Bili:74/0.6, Amylase
   / Lipase:75/66, Differential-Neuts:51.0 %, Band:4.0 %, Lymph:11.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.0 g/dL,
   LDH:560 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   82 y/o F w/ multiple myeloma, frequent recent falls in setting of
   severe peripheral neuropathy who now p/w acute on chronic subdural
   hematoma and pneumonia after an unwitnessed fall.  Transferred back to
   MICU after becoming non responsive, febrile and in afib with [**Year (4 digits) 1978**].
   .
   # AMS - unclear etiology, CT of head negative for change in SDH and
   patient moving all 4 extremities. 24 hour EEG showing spikes that might
   represent subacute status epilepticus. Could be secondary to infection
   as patient is febrile and has known pneumonia.  MRI shows acute and
   subacute infarcts c/w infarcts, no hemorrhagic conversion, which has
   potential to contribute to the AMS. Recent MRI showed nonobstruction
   flow. [**Month (only) 8**] be c.diff in the setting of broad spectrum abx.  Less likely
   meningitis, LP initially negative.  Could be drug effect, although not
   on any sedating meds now except oxybutinin. Could be delirium in
   setting of pain.  Is hemodynamically stable and should have adequate
   perfusion to brain.  LENIs and CTA neg for clots
   - f/u pan cultures of blood, urine, stool
 so far negative
   - f/u LP cultures
 Neg prelim, neg Crypto
   - EEG
 f/u final read
   - Neuro
 start Ativan on top of Dilantin, may take patient to Neuro
   step-down
   .
   # Fever
 Following fever curve, is immunocompromised secondary to
   pulse steroids for MM.  Being treated for HAP and aspiration pneumonia
   with broad spectrum vanco, cefepime.  Not covering ESBLs.  Also not
   covering fungal infections.
   - f/u cultures
 so far negative
   - continue current abx
 last dose today [**2157-4-5**]
   - remains hemodynamically stable
   .
   # RUQ pain
 stable, unclear etiology, patient is post cholecystectomy
   so not gallbladder pain.  Could be rib fracture v. pleural pain v.
   colitis vs. pneumonia pain.
   - f/u abdominal ultrasound
 negative
   - CT abd and pelvis did not show pathology which could account for
   pain; consider possible obstructing stone as cause as it would not be
   well visualized on CT
   - no abx for now
   .
   # Subdural Hematoma: Neurosurgery following, no acute change from OSH
   imaging, no changes in repeat CT
   - original plan was to transfuse plt's with goal of >80, but pt has no
   evidence of bleeding on recent MRI head, will hold off for now, unless
   NS has different indication
   - INR 1.4, s/p Vit K treatment
   - continue dilantin at an appropriately corrected level; restarted
   lyrica as patient has NGT
   .
   # Afib with [**Name (NI) 1978**] - unclear precipitating factor, likely in setting of
   fever and new infection.  BPs stable, HRs to 140s.  Not changed with
   metoprolol; responsive to diltiazem
   - Titrating dilt po dose per pharmacy recs
   - echo done earlier in admission, no need to repeat at this time
   - no PE based on CTA
   - EKG without signs of ischemia
   .
   # Respiratory/PNA: Abx treatment included vanco and cefepime started
   [**3-29**].  Did get one dose of ceftriaxone.  Was started on levo for
   atypical coverage on [**3-29**] which was stopped [**4-2**].  Flagyl was started
   [**4-2**]. Culture data only positive for GPCs in sputum, no speciation
   done.  Is oxygentating well.
   - cont vancomycin, cefepime for 7 days (until [**4-5**]) , flagyl d/c
   - oxygen to maintain sats >92%
   - CXR stable
   .
   # Diarrhea: patient had an episode of diarrhea on [**2157-4-4**]
   - C. diff pending
   .
   # Falls/?Syncope: recent admit with extensive work-up attributing LE
   weakness and falls to cervical spondylosis and multilevel degenerative
   disease with myelopathy and neuropathy. Unclear if LOC with fall.
   - Cont. tele
   - MRA of neck done on last admit showing no flow limiting lesions
   - dilantin as above for seizure ppx
   - monitor resp status
   .
   # Myeloma: On pulse decadron as per heme-onc for tx of myeloma.
   - Next pulse due in 1 week.
   - will touch base with heme onc about next steroid dose
   .
   # Pancytopenia: [**3-7**] to myeloma.
   - Transfuse platelets with goal > 80K, on hold unless neuorsurg has
   good indication for tranfusion
   - Transfuse hct < 21, rcv
d one unit [**2157-4-4**] in AM
   .
   # Renal Failure: At baseline from last admission. Unclear etiology to
   CKD, but may represent complication from myeloma.
   - Trend Cr
   - Cr stable at 1.1
   .
   # FEN: NGT TF at goal, replete lytes PRN
   .
   # Prophylaxis: pneumoboots (no SQ hep d/t SDH), PPI, pneumovax given at
   OSH
   .
   # Access: PICC line
   .
   # Code: DNR/DNI per discussion with pt
s son on [**2157-4-4**]
   .
   # Communication: Patient, son is HCP
   .
   # Disposition: pending resp status improvement, PT c/s
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2157-4-6**] 04:06 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2157-4-2**] 05:30 PM
   20 Gauge - [**2157-4-3**] 08:00 AM
   22 Gauge - [**2157-4-3**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2157-04-07 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transfused with 2 6-packs of platelets
   - EEG with continuing epileptiform activity, but improved
   - Fever 101.7, pan-cultured, started on vanc & zosyn
   - Positive UA (bacteria, yeast, LE); foley changed
   - CXR & ABG for increased O2 requirement, tachypnea - increased fluid
   on the right, 7.41/47/136/31, lactate 1.0.  Given more IV lasix.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2157-4-5**] 09:00 PM
   Vancomycin - [**2157-4-6**] 07:35 PM
   Piperacillin/Tazobactam (Zosyn) - [**2157-4-7**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2157-4-6**] 11:00 PM
   Dilantin - [**2157-4-7**] 01:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-4-7**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.8
C (98.2
   HR: 99 (92 - 123) bpm
   BP: 124/56(69) {105/51(65) - 152/83(98)} mmHg
   RR: 29 (26 - 40) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  3,284 mL
                                                                    548 mL
   PO:
             TF:
                                                                    960 mL
                                                                    294 mL
   IVF:
                                                                  1,490 mL
                                                                    124 mL
   Blood products:
                                                                    374 mL
   Total out:
                                                                  1,924 mL
                                                                  1,440 mL
   Urine:
                                                                  1,924 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,360 mL
                                                                   -892 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: 7.41/47/136/27/4
   PaO2 / FiO2: 389
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin,
   opens eyes to voice, but nonverbal
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, L eye ecchymosis resolving
   Neck: JVP elevated
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: wheezes
   and crackles b/l )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Oriented (to): nothing,
   Movement: Non -purposeful, Tone: Not assessed
   Labs / Radiology
   95 K/uL
   8.1 g/dL
   118 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.5 mEq/L
   28 mg/dL
   106 mEq/L
   134 mEq/L
   24.0 %
   10.7 K/uL
        [image002.jpg]
                             [**2157-4-3**]  03:03 AM
                             [**2157-4-3**]  01:22 PM
                             [**2157-4-4**]  03:45 AM
                             [**2157-4-4**]  11:55 AM
                             [**2157-4-5**]  03:26 AM
                             [**2157-4-6**]  04:08 AM
                             [**2157-4-6**]  07:46 AM
                             [**2157-4-6**]  02:48 PM
                             [**2157-4-6**]  07:59 PM
                             [**2157-4-7**]  03:26 AM
   WBC
   7.4
   10.7
   9.6
   10.0
   9.4
   10.0
   10.7
   Hct
   19.1
   24.6
   21.7
   24.3
   24.3
   23.5
   24.0
   Plt
   105
   117
   76
   70
   54
   30
   43
   112
   95
   Cr
   1.1
   1.1
   1.1
   1.2
   1.2
   1.5
   TCO2
   31
   Glucose
   [**Telephone/Fax (3) 5034**]19
   125
   161
   118
   Other labs: PT / PTT / INR:14.4/29.6/1.3, CK / CKMB /
   Troponin-T:17//0.04, ALT / AST:57/73, Alk Phos / T Bili:74/0.6, Amylase
   / Lipase:75/66, Differential-Neuts:51.0 %, Band:4.0 %, Lymph:11.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL,
   LDH:560 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   82 y/o F w/ multiple myeloma, frequent recent falls in setting of
   severe peripheral neuropathy who now p/w acute on chronic subdural
   hematoma and pneumonia after an unwitnessed fall.  Transferred back to
   MICU after becoming non responsive, febrile and in afib with [**Telephone/Fax (3) 1978**].
   .
   # Encephalopathy
 Likely secondary to seizure activity.  MRI showed
   acute on subacute embolic infarcts, which is likely contributing, in
   addition to SDH. LP cultures negative, which speaks against meningitis.
   - f/u pan cultures of blood, urine, stool
 continue to be negative
   - EEG -continuing epileptiform activity, but improved
   - Neuro
 start Ativan on top of Dilantin and Lyrica; dilantin level
   still low, will f/u with Neuro
   - Change Dilantin to fosphenytoin so PICC line obstruction will not
   recur
   - D/c Oxybutinin as anticholineric effects may contribute to AMS, will
   not need as pt has Foley
   .
   # Fever
 Following fever curve, is immunocompromised secondary to
   pulse steroids for MM.  Finished treatment for HAP and aspiration
   pneumonia with broad spectrum vanco, cefepime ([**4-5**]).  Did not cover
   with ESBLs or antifungals.  LENIs and CTA neg for clots
   - f/u cultures
 so far negative
   - remains hemodynamically stable
   - Spiked T on [**2157-4-6**], pan cultured, U/A pos for WBC, LE, Bact ->
   restarted vanc/Zosyn
   .
   # Oliguria
 Had UOP in 20s-30s over first few days. Patient appears to
   be volume up on exam.  Attempted to take off fluid
   - Was given Lasix x2 on [**4-11**] with UOP to 200-300/hr, however Cr incr
   from 1.2 to 1.5
   - Will hold Lasix until infection clears
   - Follow UOP
   .
   # RUQ pain
 stable, unclear etiology, patient is post cholecystectomy
   so not gallbladder pain.  Could be rib fracture v. pleural pain v.
   colitis vs. pneumonia pain. Abdominal ultrasound
 negative. CT abd and
   pelvis did not show pathology which could account for pain; consider
   possible obstructing stone as cause as it would not be well visualized
   on CT
   - no abx for now
   .
   # Subdural Hematoma: Neurosurgery following, no acute change from OSH
   imaging, no changes in repeat CT
   - original plan was to transfuse plt's with goal of >80, but pt has no
   evidence of bleeding on recent MRI head, will hold off for now, unless
   NS has different indication
   - INR 1.4, s/p Vit K treatment
   - continue dilantin at an appropriately corrected level; restarted
   lyrica as patient has NGT
   -F/u with NSurg if repeat imaging needed
   .
   # Afib with [**Name (NI) 1978**] - unclear precipitating factor, likely in setting of
   fever and new infection.  BPs stable, HRs to 140s.  Not changed with
   metoprolol; responsive to diltiazem
   - Titrating dilt po dose per pharmacy recs
   - echo done earlier in admission, no need to repeat at this time
   - no PE based on CTA
   - EKG without signs of ischemia
   .
   # Respiratory/PNA: Abx treatment included vanco and cefepime started
   [**3-29**].  Did get one dose of ceftriaxone.  Was started on levo for
   atypical coverage on [**3-29**] which was stopped [**4-2**].  Flagyl was started
   [**4-2**]. Culture data only positive for GPCs in sputum, no speciation
   done.  Needed incr O2 on [**2157-4-6**], CXR showed incr patchiness on R>L c/w
   probable aspiration pneumonitis and probable fluid overload. Finished 7
   day course of  vancomycin, cefepime (stopped [**4-5**]) , flagyl d/c
   - oxygen to maintain sats >92%
   - F/u CXR, [**2157-4-7**], some improvement after Lasix and O2 requirement down
   to FiO2 35%
   - Cont Vanc/Zosyn
   .
   # Diarrhea: patient had an episode of diarrhea on [**2157-4-4**]
   - C. diff negative x1
   - F/u 2^nd C diff
   .
   # Falls/?Syncope: recent admit with extensive work-up attributing LE
   weakness and falls to cervical spondylosis and multilevel degenerative
   disease with myelopathy and neuropathy. Unclear if LOC with fall. MRA
   of neck done on last admit showing no flow limiting lesions
   - Cont. tele  and monitor resp status
   - dilantin as above for seizure ppx
   .
   # Myeloma: On pulse decadron as per heme-onc for tx of myeloma.
   - Next pulse due in 1 week.
   - will touch base with heme onc about next steroid dose
   .
   # Pancytopenia: [**3-7**] to myeloma.
   - Transfuse platelets with absolute goal > 50K; transfused 1U [**4-6**]
   - Transfuse hct < 21, rcv
d one unit [**2157-4-4**] in AM
   .
   # Renal Failure: At baseline from last admission: 1.1-1.2. Unclear
   etiology to CKD, but may represent complication from myeloma.
   - Trend Cr
   - Cr incr after Lasix x2
   .
   # FEN: NGT TF at goal, replete lytes PRN
   .
   # Prophylaxis: pneumoboots (no SQ hep d/t SDH), PPI, pneumovax given at
   OSH
   .
   # Access: PIV x 2; will try to resite PICC line.
   .
   # Code: DNR/DNI per discussion with pt
s son on [**2157-4-4**]
   .
   # Communication: Patient, son is HCP
   .
   # Disposition: pending resp status improvement, PT c/s
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2157-4-7**] 04:46 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-4-7**] 03:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2157-04-07 10:36:00 Physician Attending Progress Note
Chief Complaint: Atrial Fibrillation
   Sub-Dural Hematoma
   Thrombocytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   -Fever last night with cultures taken and Vanco/ZOsyn restarted
   -PLT given for decrease
   -U/A with >50 WBC's--foley changed
   -Patient with worsening hypoxemia and Rx with IV lasix
   24 Hour Events:
 PICC LINE - STOP [**2157-4-6**] 11:25 PM
 FEVER - 101.7
F - [**2157-4-6**] 06:00 PM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2157-4-5**] 09:00 PM
   Vancomycin - [**2157-4-6**] 07:35 PM
   Piperacillin/Tazobactam (Zosyn) - [**2157-4-7**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2157-4-6**] 11:00 PM
   Dilantin - [**2157-4-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Tachypnea
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2157-4-7**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.2
C (99
   HR: 111 (92 - 123) bpm
   BP: 142/67(82) {105/51(65) - 152/83(98)} mmHg
   RR: 33 (26 - 40) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  3,284 mL
                                                                    755 mL
   PO:
             TF:
                                                                    960 mL
                                                                    413 mL
   IVF:
                                                                  1,490 mL
                                                                    142 mL
   Blood products:
                                                                    374 mL
   Total out:
                                                                  1,924 mL
                                                                  1,740 mL
   Urine:
                                                                  1,924 mL
                                                                  1,740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,360 mL
                                                                   -985 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: 7.41/47/136/27/4
   PaO2 / FiO2: 389
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   95 K/uL
   118 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.5 mEq/L
   28 mg/dL
   106 mEq/L
   134 mEq/L
   24.0 %
   10.7 K/uL
        [image002.jpg]
                             [**2157-4-3**]  03:03 AM
                             [**2157-4-3**]  01:22 PM
                             [**2157-4-4**]  03:45 AM
                             [**2157-4-4**]  11:55 AM
                             [**2157-4-5**]  03:26 AM
                             [**2157-4-6**]  04:08 AM
                             [**2157-4-6**]  07:46 AM
                             [**2157-4-6**]  02:48 PM
                             [**2157-4-6**]  07:59 PM
                             [**2157-4-7**]  03:26 AM
   WBC
   7.4
   10.7
   9.6
   10.0
   9.4
   10.0
   10.7
   Hct
   19.1
   24.6
   21.7
   24.3
   24.3
   23.5
   24.0
   Plt
   105
   117
   76
   70
   54
   30
   43
   112
   95
   Cr
   1.1
   1.1
   1.1
   1.2
   1.2
   1.5
   TCO2
   31
   Glucose
   [**Telephone/Fax (3) 5034**]19
   125
   161
   118
   Other labs: PT / PTT / INR:14.4/29.6/1.3, CK / CKMB /
   Troponin-T:17//0.04, ALT / AST:57/73, Alk Phos / T Bili:74/0.6, Amylase
   / Lipase:75/66, Differential-Neuts:51.0 %, Band:4.0 %, Lymph:11.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL,
   LDH:560 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: ABG-
   7.41/47/136--
   Imaging: CXR-Significant right sided effusion
   Microbiology: U/A--yeast noted
   Assessment and Plan
   83 yo female with multiple myeloma and has acute on chronic SDH now
   with readmission with A-Fib and RVR.  Her recent course has been
   complicated by recurrent fevers to >101.5 and only mild leukocytosis in
   U/A seen as possible source.   Patient has had evidence of intermittent
   pulmonary congestion in the setting of persistent atrial fibrillation
   which has been responsive to Lasix Rx--however, patient has modest
   worsening in renal function as defined by creatinine increase.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RASH
   Sub-Dural Hematoma
   -Dilantin
will check level and dose in coordination with Neurology team
   -EEG monitoring to continue
   -LP cultures negative
   Atrial Fibrillation
   -Diltiazem
   -Will need to increase as needed for rate control in the setting of
   fever but will have to let physiology of active infection be balanced
   with need for maintenance of adequate ventricular filling and SV by
   extension.
   Hypoxemia
Clearly a component of unilateral pulmonary edema and
   evidence of mulit-focal opacities consistent with aspiration
   pneumonitis.
   -Lasix as needed
only for refractory hypoxemia and bilateral effusions
   or edema given rising Cr and metabolic alkalosis likely contributed to
   by contraction.
   -Maintain aspiration precautions and npo status
   -Continue with antibiotics for possible pneumonia given concern for
   evolution from pneumonitis to pneumonia with continued fever.
   Sepsis-
   Vanco/Zosyn to continue
   Sputum if obtained
   Rx for possible UTI is in place but aspiration pneumonitis and
   pneumonia may be most clear stimulus for sepsis at this time
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2157-4-7**] 04:46 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2157-4-7**] 03:48 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes

2157-04-08 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - NSurg input: Will consider taking patient to OR if rebleeds and
   family wishes
   - Neuro recs: EEG much better. D/c'd. OK to switch to Fosphenytoin at
   1:1 equivalent dilantin dose.
   - Blood cultures NGTD
   - UOP tapered off over the course of the night-> making ~ 20cc/3hrs
   now, blood tinged. Cr up to 2.2. K and Phos elevated. Checking urine
   lytes.
   - Mental status deteriorating. Minimal gag.
   - Tachycardic; maxed out on dilt, added Metop 12.5 mg [**Hospital1 **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2157-4-5**] 09:00 PM
   Vancomycin - [**2157-4-6**] 07:35 PM
   Piperacillin/Tazobactam (Zosyn) - [**2157-4-7**] 04:00 PM
   Piperacillin - [**2157-4-8**] 04:00 AM
   Infusions:
   Other ICU medications:
   Dilantin - [**2157-4-7**] 08:00 AM
   Fosphenytoin - [**2157-4-8**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-4-8**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.1
C (98.7
   HR: 93 (83 - 126) bpm
   BP: 94/52(62) {93/46(58) - 142/71(84)} mmHg
   RR: 39 (29 - 39) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  1,775 mL
                                                                    455 mL
   PO:
             TF:
                                                                    964 mL
                                                                    284 mL
   IVF:
                                                                    490 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,160 mL
                                                                     80 mL
   Urine:
                                                                  2,160 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -385 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin,
   opens eyes to voice, but nonverbal
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, L eye ecchymosis resolving
   Neck: JVP elevated
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: wheezes
   and crackles b/l )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Oriented (to): nothing,
   Movement: Non -purposeful, Tone: Not assessed
   Labs / Radiology
   58 K/uL
   7.7 g/dL
   167 mg/dL
   2.2 mg/dL
   25 mEq/L
   5.6 mEq/L
   36 mg/dL
   105 mEq/L
   134 mEq/L
   22.3 %
   12.0 K/uL
        [image002.jpg]
                             [**2157-4-4**]  03:45 AM
                             [**2157-4-4**]  11:55 AM
                             [**2157-4-5**]  03:26 AM
                             [**2157-4-6**]  04:08 AM
                             [**2157-4-6**]  07:46 AM
                             [**2157-4-6**]  02:48 PM
                             [**2157-4-6**]  07:59 PM
                             [**2157-4-7**]  03:26 AM
                             [**2157-4-7**]  04:32 PM
                             [**2157-4-8**]  02:35 AM
   WBC
   9.6
   10.0
   9.4
   10.0
   10.7
   10.2
   12.0
   Hct
   21.7
   24.3
   24.3
   23.5
   24.0
   23.1
   22.3
   Plt
   76
   70
   54
   30
   43
   112
   95
   69
   58
   Cr
   1.1
   1.2
   1.2
   1.5
   2.2
   TCO2
   31
   Glucose
   111
   119
   125
   161
   118
   167
   Other labs: PT / PTT / INR:15.4/33.7/1.4, CK / CKMB /
   Troponin-T:17//0.04, ALT / AST:57/73, Alk Phos / T Bili:74/0.6, Amylase
   / Lipase:75/66, Differential-Neuts:51.0 %, Band:4.0 %, Lymph:11.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL,
   LDH:560 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   82 y/o F w/ multiple myeloma, frequent recent falls in setting of
   severe peripheral neuropathy who now p/w acute on chronic subdural
   hematoma and pneumonia after an unwitnessed fall.  Transferred back to
   MICU after becoming non responsive, febrile and in afib with [**Year (4 digits) 1978**].
   .
   # Encephalopathy
 Likely secondary to seizure activity.  MRI showed
   acute on subacute embolic infarcts, which is likely contributing, in
   addition to SDH. LP cultures negative, which speaks against meningitis.
   Worsening MS as patient has diminished gag and min response to pain.
   - f/u pan cultures of blood, urine, stool
 continue to be negative
   - EEG
d per Neuro
   - Neuro
 cont Ativan on top of Dilantin and Lyrica; dilantin level
   still low, will f/u with Neuro
   - Changed Dilantin to fosphenytoin so PICC line obstruction will not
   recur
   - D/c Oxybutinin as anticholineric effects may contribute to AMS, will
   not need as pt has Foley
   .
   # Fever
 Following fever curve, is immunocompromised secondary to
   pulse steroids for MM.  Finished treatment for HAP and aspiration
   pneumonia with broad spectrum vanco, cefepime ([**4-5**]).  Did not cover
   with ESBLs or antifungals.  LENIs and CTA neg for clots
   - f/u cultures
 so far negative
   - remains hemodynamically stable
   - Spiked T on [**2157-4-6**], pan cultured, U/A pos for WBC, LE, Bact ->
   restarted vanc/Zosyn
   .
   # Oliguria
 Had UOP in 20s-30s over first few days. Patient appears to
   be volume up on exam.  Attempted to take off fluid
   - Was given Lasix x2 on [**4-11**] with UOP to 200-300/hr, however Cr incr
   from 1.2 to 1.5. Now oliguric after Lasix with hematuria and Cr rising
   to 2.2 c/w ARF
   - Will hold Lasix
   - Follow UOP
   - U/S bladder and flush Foley if obstructed
   .
   # RUQ pain
 stable, unclear etiology, patient is post cholecystectomy
   so not gallbladder pain.  Could be rib fracture v. pleural pain v.
   colitis vs. pneumonia pain. Abdominal ultrasound
 negative. CT abd and
   pelvis did not show pathology which could account for pain; consider
   possible obstructing stone as cause as it would not be well visualized
   on CT
   - no abx for now
   .
   # Subdural Hematoma: Neurosurgery following, no acute change from OSH
   imaging, no changes in repeat CT
   - original plan was to transfuse plt's with goal of >80, but pt has no
   evidence of bleeding on recent MRI head, will hold off for now, unless
   NS has different indication
   - INR 1.4, s/p Vit K treatment
   - continue dilantin at an appropriately corrected level; restarted
   lyrica as patient has NGT
   - NSurg input: would consider taking pt to OR if rebleeds, if family
   wishes
   .
   # Afib with [**Name (NI) 1978**] - unclear precipitating factor, likely in setting of
   fever and new infection.  BPs stable, HRs to 140s.  Not changed with
   metoprolol; responsive to diltiazem
   - Titrating dilt po dose per pharmacy recs
   - Added metoprolol with good effect
   - echo done earlier in admission, no need to repeat at this time
   - no PE based on CTA
   - EKG without signs of ischemia
   .
   # Respiratory/PNA: Abx treatment included vanco and cefepime started
   [**3-29**].  Did get one dose of ceftriaxone.  Was started on levo for
   atypical coverage on [**3-29**] which was stopped [**4-2**].  Flagyl was started
   [**4-2**]. Culture data only positive for GPCs in sputum, no speciation
   done.  Needed incr O2 on [**2157-4-6**], CXR showed incr patchiness on R>L c/w
   probable aspiration pneumonitis and probable fluid overload. Finished 7
   day course of  vancomycin, cefepime (stopped [**4-5**]) , flagyl d/c
   - oxygen to maintain sats >92%
   - F/u CXR, [**2157-4-7**], some improvement after Lasix and O2 requirement down
   to FiO2 35%
   - Cont Vanc/Zosyn
   - Worsening respiratory effort, will recheck venous blood gas
   .
   # Diarrhea: patient had an episode of diarrhea on [**2157-4-4**]
   - C. diff negative x1
   - F/u 2^nd C diff
   .
   # Falls/?Syncope: recent admit with extensive work-up attributing LE
   weakness and falls to cervical spondylosis and multilevel degenerative
   disease with myelopathy and neuropathy. Unclear if LOC with fall. MRA
   of neck done on last admit showing no flow limiting lesions
   - Cont. tele  and monitor resp status
   - dilantin as above for seizure ppx
   .
   # Myeloma: On pulse decadron as per heme-onc for tx of myeloma.
   - Next pulse due in 1 week.
   - will touch base with heme onc about next steroid dose
   .
   # Pancytopenia: [**3-7**] to myeloma.
   - Transfuse platelets with absolute goal > 50K; transfused 1U [**4-6**]
   - Transfuse hct < 21, rcv
d one unit [**2157-4-4**] in AM
   .
   # Renal Failure: Baseline from last admission: 1.1-1.2. Unclear
   etiology to CKD, but may represent complication from myeloma.
   - Trend Cr
   - Cr incr after Lasix, and now incr K, phos and Cr to 2.2
   .
   # FEN: NGT TF at goal, replete lytes PRN
   .
   # Prophylaxis: pneumoboots (no SQ hep d/t SDH), PPI, pneumovax given at
   OSH
   .
   # Access: PIV x 2; will try to resite PICC line.
   .
   # Code: DNR/DNI per discussion with pt
s son on [**2157-4-4**]
   .
   # Communication: Patient, son is HCP
   .
   # Disposition: pending resp status improvement, PT c/s, called son to
   inform of worsening status, will be coming to hospital
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2157-4-8**] 05:38 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-4-7**] 03:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: